US08222260B2
2-Methyl-6-(3-methoxyanilino)purine
To a suspension of 2-methyl-6-chloropurine (1.69 g; 0.01 mol) and m-anisidine (1.23 g; 0.01 mol) in n-butanol (20 ml), triethylamine (3.5 ml; 0.025 mol) was added. The resulting thick suspension was stirred at 110° C. for 3 hours, when TLC showed the absence of starting material and the presence of desired product. The reaction mixture was then cooled to room temperature. The white precipitate was filtered off, rinsed with n-butanol (2×10 ml) and water (3×10 ml) and dried into constant weight. Yield: 1.92 g (75%). The crude product was purified as hydrochloride salt by the crystallization from 2.5 M methanolic hydrochloric acid. TLC (chloroform-methanol-NH4OH; 4:1:0.05): one single spot, free of starting material. HPLC purity: 99+%.

reactant | 2-methyl-6-chloropurine | 0.01 mol, 1.69 g | CC1=NC(=C2NC=NC2=N1)Cl | C6H5ClN4
reactant | m-anisidine | 0.01 mol, 1.23 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | triethylamine | 0.025 mol, 3.5 ml | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
product | 2-Methyl-6-(3-methoxyanilino)purine | CC1=NC(=C2NC=NC2=N1)NC1=CC(=CC=C1)OC | C13H13N5O
